US04214093
In 20 ml of pyridine were dissolved 1 g of 7-nitro-1,2,3,4-tetrahydro-1-naphthoic acid and 560 mg of p-methoxyphenol. To the solution which had been cooled was added 700 mg of phosphorus oxychloride and the mixture was allowed to stand for 2 days. The reaction mixture was poured into ice water, made slightly alkaline with a 5% sodium hydrogen carbonate solution and extracted with ethyl acetate. The ethyl acetate layer was separated and concentrated under reduced pressure to remove the ethyl acetate. The residue was recrystallized from an ethyl acetate-hexane mixture to obtain 0.8 g of p-methoxyphenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate, m.p. 109°-110° C.

reactant | 7-nitro-1,2,3,4-tetrahydro-1-naphthoic acid | 1 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(=O)O | C11H11NO4
reactant | p-methoxyphenol | 560 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | phosphorus oxychloride | 700 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-methoxyphenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate | 0.8 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=C(C=C1)OC | C18H17NO5
